US07053173B2
Under the nitrogen gas atmosphere, chloro sulfuric acid is diluted by adding chloro sulfuric acid (0.53 ml, 8 eq.) into methylene chloride (10 ml), and 1,1′:4′,1″-terphenyl (0.230 g, 1.0 mmol) is added gradually into a container in which diluted chloro sulfuric acid is contained keeping the temperature at 0° C., then stirred at the room temperature for 6 hours. The obtained reacted mixture is poured into brine, and deposited white insoluble is removed by suction filtration. Since the small amount of product is possible to be remained, the residue is washed well by methylene chloride. Then, this solution and the extracted solution are dried up using magnesium sulfate. Solvent is vaporized off under the vacuum condition, and the impurity is removed from the obtained crude product by isolating by a column chromatography (φ=50 mm, h=100 mm; CHCl3). Thus, 4,4″-dichlorosulfonyl1,1′:4′,1″-terphenyl (0.288 g, 0.67 mmol, 67%) is obtained as a colorless crystal (compound F).

reactant | chloro sulfuric acid | S(O)(=O)(=O)Cl | ClHO3S
reactant | chloro sulfuric acid | 0.53 ml, 8 eq. | S(O)(=O)(=O)Cl | ClHO3S
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
reactant | 1,1′:4′,1″-terphenyl | 1.0 mmol, 0.230 g | C1(=CC=CC=C1)C1=CC=C(C=C1)C1=CC=CC=C1 | C18H14
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | brine | [Cl-].[Na+].O
product | 4,4″-dichlorosulfonyl1,1′:4′,1″-terphenyl | 0.67 mmol, 0.288 g, 67% | ClS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C18H12Cl2O4S2
